Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:6](=[O:7])([H:10])[H:13].[O:1]([C:2](=[C:3]=[C:4]=[C:5]([H:11])[H:12])[H:9])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],48.0584736626831
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@:2]2([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C@:6]12[H:14].[H:7][H:13],99.27923086590842
[C-:4]#[O+:5].[C:1]([C@:2]([O:3][H:11])([C:6](=[O:7])[H:13])[H:9])([H:8])([H:10])[H:12]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],81.87095446905656
[C:1]([C:2](=[C-:3][C:4]([C+:5]([O:6][H:14])[H:12])([H:10])[H:11])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],14.623282153519703
[C:1]([C:2]([O:3][H:11])([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],60.558717941728005
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O+:3][C:6]([O:7][H:15])([H:13])[H:14])[N:4]([C-:5]([H:11])[H:12])[H:10])([H:8])[H:9],83.6453546513034
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:14])([H:15])[C:6]([H:13])([H:16])[C:5]1)([H:10])[H:11])([H:7])([H:8])[H:9],92.5351340555736
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C:4]([H:12])([H:13])[C@:5]1([O:6][O:3][H:11])[H:14])([H:7])([H:8])[H:9],92.30508823623457
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4]1\[O:5][C:7]([H:13])=[C:6]1[O:3][H:12])[H:11])([H:8])([H:9])[H:10],67.1598645369258
[N:1]([C:2](=[O:3])[N:7]([C:6](=[O+:5][C-:4]([H:10])[H:11])[H:12])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],10.507830248617502
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([N:4]([C:7]([H:13])([H:14])[H:15])[H:12])=[C:5]=[O:6])[H:11])([H:8])([H:9])[H:10],83.1975849236008
[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:3](=[C:2]=[N:6])[H:10])([H:7])([H:8])[H:9].[O:4]=[N:5],102.85182096887699
[C:1]([C@@:2]12[N:3]([H:11])[C@@:6]([H:14])([C:5]([H:12])([H:13])[O:4]1)[O:7]2)([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],28.579959205990598
[H:9][H:12].[O:1]([C:2]1=[C:4]([O:5][C:6](=[O:7])[H:13])[C:3]1([H:10])[H:11])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],64.4518423394824
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([N+:6]#[C-:5])([H:10])[H:11])([H:7])([H:8])[H:9],57.3956227723703
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:3](=[O:4])=[N:5][C:6]([H:13])([H:14])[H:15],72.55763739555759
[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:7]1([H:13])[C:4]([H:11])=[C:5]([H:12])[O:6]1)([H:8])([H:9])[H:10],25.9782412124207
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[N:3](=[C:4]=[O:5])[H:13].[O:6]([C:7]([H:14])([H:15])[H:16])[H:9]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],39.37529585886139
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[N+:5]#[C-:4],100.63661128158199
[C:4](=[N:5][H:13])([H:11])[H:12].[O:1]([C:2]([C+:3]=[C:6]([O-:7])[H:14])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],3.1377701004314957
[C:1](=[N:2][C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:11])([H:15])[H:16])([H:9])[H:10].[H:8][H:17]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],60.239048925843704
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[O:1](/[C:2](=[N:3]/[H:9])[H:8])[C:6]#[C:7][H:14],86.77508032096891
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:6](=[N:7]/[H:16])[O:5][C:4]1([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][H:13],101.77638429807399
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O-:1][C:2](=[C:3]([O:4][H:8])[C:5]#[C+:6])[H:7],76.1128068499136
[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[N:3][C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:11])[H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],74.11544703160541
